US07662832B2
7-(4-fluorophenoxymethyl)-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridine
1-Methyl-1-propenyl magnesium bromide (0.5 M in tetrahydrofuran solution, 1.7 ml, 0.851 mmol) was added at −78° C. to a solution of 2-(4-fluorophenoxymethyl)-3-nitropyridine (71 mg, 0.284 mmol) prepared in Preparation 1 in anhydrous tetrahydrofuran (5 ml). The reaction mixture was stirred overnight and a saturated ammonium chloride solution was added thereto. The reaction mixture was extracted with ethyl acetate (15 ml). The organic layer washed with water (5 ml), dried on anhydrous magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified with silica gel column chromatography (dichloromethane/n-hexane=2/1, v/v) to give 15 mg of the titled compound as brown oil.

reactant | 1-Methyl-1-propenyl magnesium bromide | 0.851 mmol, 0.5 M, 1.7 ml | CC(=CC)[Mg]Br
reactant | 2-(4-fluorophenoxymethyl)-3-nitropyridine | 0.284 mmol, 71 mg | FC1=CC=C(OCC2=NC=CC=C2[N+](=O)[O-])C=C1 | C12H9FN2O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 7-(4-fluorophenoxymethyl)-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridine | 15 mg | FC1=CC=C(OCC=2N=CC=C3C2NC(=C3C)C)C=C1 | C16H15FN2O
